2104-06-09 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -[**1-23**] blood cultures showed [**Last Name (LF) 4696**], [**First Name3 (LF) 755**] hospital. Current Abx therapy
   covering. Should call [**Location (un) 755**] for sensitivities on Monday.
   -D/C neupogen, as per onc recs
   -required a bolus of 2 L of LR because of falling pressures. SBP steady
   in the mid 90s.
   -Anxious, so received 1 g of Ativan IV
   Allergies:
   Gluten
   per pt becomes
   Gentamicin
   Vertigo;
   Zithromax (Oral) (Azithromycin)
   Vertigo;
   Last dose of Antibiotics:
   Metronidazole - [**2104-6-8**] 04:00 PM
   Vancomycin - [**2104-6-8**] 08:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-6-9**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-6-8**] 07:33 AM
   Heparin Sodium (Prophylaxis) - [**2104-6-8**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-9**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 63 (63 - 86) bpm
   BP: 104/43(62) {91/36(52) - 121/49(73)} mmHg
   RR: 14 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 7 (2 - 10)mmHg
   Total In:
                                                                  8,437 mL
                                                                  1,971 mL
   PO:
   TF:
   IVF:
                                                                  8,437 mL
                                                                  1,971 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    570 mL
   Urine:
                                                                  2,510 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,927 mL
                                                                  1,401 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.49///23/
   Physical Examination
   General: Responsive male in NAD.
   HEENT: Sclera anicteric, PERRL, EOMI, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, large midline incision about [**9-1**]" and vertical,
   incision packed with guaze, mildly distended, tenderness over incision,
   no bowel sounds. no rebound tenderness or guarding, no organomegaly
   Ext: warm LEs, 2+ pulses, no clubbing, cyanosis or edema, pneumoboots
   Labs / Radiology
   140 K/uL
   7.7 g/dL
   111 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   12 mg/dL
   107 mEq/L
   135 mEq/L
   23.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2104-6-7**]  02:44 PM
                             [**2104-6-7**]  04:02 PM
                             [**2104-6-7**]  04:16 PM
                             [**2104-6-7**]  10:42 PM
                             [**2104-6-8**]  05:15 AM
                             [**2104-6-8**]  05:41 PM
                             [**2104-6-9**]  03:04 AM
   WBC
   2.9
   2.9
   18.4
   7.3
   9.3
   Hct
   30
   28.1
   24.5
   27.1
   24.4
   23.5
   Plt
   104
   88
   189
   116
   140
   Cr
   0.8
   0.7
   0.7
   0.6
   0.6
   TCO2
   21
   21
   Glucose
   110
   102
   116
   125
   93
   111
   Other labs: PT / PTT / INR:13.6/54.0/1.2, Differential-Neuts:93.0 %,
   Band:3.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.1 g/dL, LDH:142 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.8
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 .H/O ANEMIA, CHRONIC
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Mr. [**Known lastname 8842**] is a 73yo M with recent diagnosis of
   large B-cell lymphoma (s/p 2 cycles of CHOP), HTN, CAD, and DM who is
   now post-op after emergent surgery for an overnight small bowel
   perforation.
   #Hypotension - He has been in the low 90s SBPs over past several weeks
   per OMR and oncology team. While in hospital and post-op, has likely
   been volume depleted. Responsive to fluid boluses. Other etiologies
   include sepsis or adrenal insufficiency.
   --continue ongoing IVFs with LR
   --will continue on stress dose hydrocortisone 100mg q8hrs (he had been
   on 2mg Dexamethasone daily pre-op)
   --If patient continues to be hypotensive with low UOP despite fluid
   repletion, consider other sources of infection.
   #Small bowel perforation - Mr. [**Known lastname 8842**] had acute abdominal pain
   overnight and presented to OSH ED with CT abdomen confirming a small
   bowel perforation. Here in O.R. surgical team did small bowel jejunum
   resection and repair. He has no external drains at this time and has
   well-appearing mid-line closure in place. He did not require any blood
   transfusions in OR. No signs of active bleeding.
   --follow-up surgery recommendations
   --will continue on Zosyn/Flagyl/Vanco Abx coverage
   --continue IVFs with 100cc/hr LR overnight
   --will wean Fentanyl & continue Dilaudid PCA for pain control
   --monitor UOP with goal >30cc/hr
   --serial abdominal exams
   --f/up blood cultures and OSH sensitivies
   --active T&S
   --monitor fevers, CBC trends
   .
   Anemia: Hct: 27.1
23.5 in 24 hours. Likely dilutional given the amount
   of fluids. HR has been stable, so unlikely active bleeding, however,
   just had surgery.
   --will check a PM crit today
   --If Hct<21%, transfuse.
   .
   # Large B-cell lymphoma -Patient was diagnosed with MDS on bone marrow
   biopsy in [**2102**] and now has new diagnosis of large B-cell lymphoma
   diagnosed about 6-7 weeks ago. He is now s/p 2nd cycle  R-CHOP with
   PET-CT last done on [**6-6**]. Cell counts have been dropping since last
   chemotherapy session.
   .
   -follow-up oncology recommendations, appreciate input
   -D/C
ed neupogen on [**6-8**], as per onc
   -continue monitor CBC/diff daily
   -tumor lysis labs [**Hospital1 7**] per oncology
   -[**Hospital1 7**] electrolytes
   -continue Fe, Vit B12
   .
   #DM-II- Longstanding history of DM-II which is managed with home oral
   glipizide therapy.
   --Will continue NPO for now
   --continue holding PO glipizide for now given NPO
   --once eating will implement QID FSGs, diabetic/cardiac healthy diet
   and SSI coverage
   .
   #HTN - He is now in the low 90-110 SBPs range and he has had low BPs in
   similar ranges in recent weeks per OMR notes. Will continue to hold all
   anti-HTN medications at this time.
   .
   #CAD: He has known prior inferior MI. Once awake will monitor for any
   chest pains. No new ischemic changes on pre-op EKG.
       - holding all ASA in setting of recent surgery
       -continue telemetry
       -continue on daily statin medication
   ICU Care
   Nutrition: NPO. 100 cc LR/hr
   Glycemic Control:  No HISS.
   Lines:
   22 Gauge - [**2104-6-7**] 04:46 PM
   Arterial Line - [**2104-6-7**] 04:48 PM
   20 Gauge - [**2104-6-7**] 04:48 PM
   Multi Lumen - [**2104-6-7**] 04:52 PM
   Prophylaxis:
   DVT: Heparin SC, pneumoboots
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  Patient, wife-[**Name (NI) **] [**Name (NI) 8842**] #[**Telephone/Fax (1) 8843**]
   Code status: Full code
   Disposition: Pending stable BPs. Likely can leave today.